US06288082B1
7-Ethoxy-4-(indazol-6-ylamino)-6-methoxy-quinoline-3-carbonitrile
A mixture of 500 mg (1.90 mmol) 4-chloro-7-ethoxy-6-methoxy-quinoline-3-carbonitrile, 30 ml ethanol, and 304 mg (2.28 mmol) 6-aminoindazole was heated to reflux under N2. Removed heat at 4 hours and made basic with saturated sodium bicarbonate. Stripped solvents, slurried residue with hexane, collected solids and dried. Washed with water and dried in vacuo, giving 546 mg of tan solid: mass spectrum (electrospray m/e): M+H=359.9.

reactant | 4-chloro-7-ethoxy-6-methoxy-quinoline-3-carbonitrile | 1.90 mmol, 500 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCC)C#N | C13H11ClN2O2
reactant | 6-aminoindazole | 2.28 mmol, 304 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 7-Ethoxy-4-(indazol-6-ylamino)-6-methoxy-quinoline-3-carbonitrile | 546 mg | C(C)OC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC=C2C=NNC2=C1)OC | C20H17N5O2
